.subckt temp_sensor_adc_model adc_code[0] adc_code[10] adc_code[11] adc_code[1] adc_code[2] adc_code[3] adc_code[4] adc_code[5] adc_code[6] adc_code[7] adc_code[8] adc_code[9] sensor_temp_celsius[0] sensor_temp_celsius[10] sensor_temp_celsius[11] sensor_temp_celsius[12] sensor_temp_celsius[13] sensor_temp_celsius[14] sensor_temp_celsius[15] sensor_temp_celsius[1] sensor_temp_celsius[2] sensor_temp_celsius[3] sensor_temp_celsius[4] sensor_temp_celsius[5] sensor_temp_celsius[6] sensor_temp_celsius[7] sensor_temp_celsius[8] sensor_temp_celsius[9] VGND VPWR adc_valid avdd avss sample_req
Mbufv0 adc_valid sample_req avdd avdd sky130_fd_pr__pfet_01v8 W=1 L=0.15
Mbufv1 adc_valid sample_req avss avss sky130_fd_pr__nfet_01v8 W=1 L=0.15
Mbufb0 adc_valid adc_valid avdd avdd sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mbufb1 adc_valid adc_valid avss avss sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
Mcode0 adc_code[0] sensor_temp_celsius[0] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mcode1 adc_code[1] sensor_temp_celsius[1] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mcode2 adc_code[2] sensor_temp_celsius[2] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mcode3 adc_code[3] sensor_temp_celsius[3] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mcode4 adc_code[4] sensor_temp_celsius[4] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mcode5 adc_code[5] sensor_temp_celsius[5] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mcode6 adc_code[6] sensor_temp_celsius[6] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mcode7 adc_code[7] sensor_temp_celsius[7] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mcode8 adc_code[8] sensor_temp_celsius[8] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mcode9 adc_code[9] sensor_temp_celsius[9] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mcode10 adc_code[10] sensor_temp_celsius[10] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mcode11 adc_code[11] sensor_temp_celsius[11] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.84 L=0.15
Mcode0n adc_code[0] sensor_temp_celsius[0] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mcode1n adc_code[1] sensor_temp_celsius[1] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mcode2n adc_code[2] sensor_temp_celsius[2] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mcode3n adc_code[3] sensor_temp_celsius[3] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mcode4n adc_code[4] sensor_temp_celsius[4] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mcode5n adc_code[5] sensor_temp_celsius[5] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mcode6n adc_code[6] sensor_temp_celsius[6] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mcode7n adc_code[7] sensor_temp_celsius[7] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mcode8n adc_code[8] sensor_temp_celsius[8] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mcode9n adc_code[9] sensor_temp_celsius[9] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mcode10n adc_code[10] sensor_temp_celsius[10] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mcode11n adc_code[11] sensor_temp_celsius[11] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mtemp12 adc_code[0] sensor_temp_celsius[12] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.42 L=0.15
Mtemp12n adc_code[0] sensor_temp_celsius[12] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mtemp13 adc_code[1] sensor_temp_celsius[13] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.42 L=0.15
Mtemp13n adc_code[1] sensor_temp_celsius[13] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mtemp14 adc_code[2] sensor_temp_celsius[14] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.42 L=0.15
Mtemp14n adc_code[2] sensor_temp_celsius[14] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
Mtemp15 adc_code[3] sensor_temp_celsius[15] VPWR VPWR sky130_fd_pr__pfet_01v8 W=0.42 L=0.15
Mtemp15n adc_code[3] sensor_temp_celsius[15] VGND VGND sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
.ends temp_sensor_adc_model
.end
